US05155113
Preparation of 4-(2-chlorobenzoyloxy)-2-pyridone
The general procedure of Example 12 was followed using 1.00 g of 4-hydroxy-2-pyridone and 1.36 ml of 2-chlorobenzoyl chloride to produce 1.42 g of the title compound in a yield of 68%.

reactant | 4-hydroxy-2-pyridone | 1.00 g | OC1=CC(NC=C1)=O | C5H5NO2
reactant | 2-chlorobenzoyl chloride | 1.36 ml | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
product | 4-(2-chlorobenzoyloxy)-2-pyridone | 1.42 g, yield of 68% | ClC1=C(C(=O)OC2=CC(NC=C2)=O)C=CC=C1 | C12H8ClNO3
